* C:\Users\neilt\Documents\Vivado-Projects\Week8\Part2.asc
* Generated by LTspice 24.1.6 for Windows.
X§X1 N001 N002 N004 XOR_2141
X§X2 N004 x out XOR_2141
X§X3 N005 out out NAND_2141
X§X4 clock N005 NC_01 N002 Dflop_2141
X§X5 clock N002 NC_02 N001 Dflop_2141
V1 N006 0 PWL file=part2pwl.txt
X§X6 N006 N003 x switch_ideal_2141
V2 N003 0 5
V3 clock 0 PULSE(0 5 0 0.1ns 0.1ns 50ms 100ms)
R1 x 0 10k

* block symbol definitions
.subckt XOR_2141 A B Y
A1 A B 0 0 0 0 Y 0 XOR Vhigh=5 Vlow=0 Ref=1.5 Trise=5n Tfall=5n Td=5n
C1 Y 0 1p
.ends XOR_2141

.subckt NAND_2141 Y A B
A1 A B 0 0 0 Y 0 0 AND Vhigh=5 Vlow=0 Ref=1.5 Trise=5n Tfall=5n Td=5n
C1 Y 0 1pf
.ends NAND_2141

.subckt Dflop_2141 CLK D _Q Q
A1 D 0 CLK 0 0 _Q Q 0 DFLOP Vhigh=5 Vlow=0 Ref=1.5 Trise=5n Tfall=5n Td=5n
C1 _Q 0 1p
C2 0 Q 1p
.ends Dflop_2141

.subckt switch_ideal_2141 A O1 O2
V3 Vcc 0 5
S1 O2 O1 N001 0 MYSW
X§U2 A N001 Vcc 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model MYSW SW(Ron=0.1 Roff=1G Vt=1.5 Vh=0)
.ends switch_ideal_2141

.tran 850ms
.lib UniversalOpAmp2.lib
.backanno
.end
